*****************************************************************
* NXP PSMN057_200B
*
* Polarity N-Channel
* Ratings 200V/5.70E-02OHMS/17A
*
* Date Created Wed Mar  9 18:30:10 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN057_200B DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 3.13496339174193e-09
RLS2 SOURCE 8 7.87901571349002
RLS1 8 7 0.000834963391741927

RDS 7 4 20000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0374854879469344 TC=-0.00649181240366078,0.000192293326408551
RBD 9 4 0.00254352782952104 TC=-0.00649181240366078,0.000192293326408551
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 2.99047245321969e-09
RG 1 2 1.99784058573213

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	3925
+ -10	3918
+ -5	3836
+ -4	3775
+ -3	5378
+ -2	5015
+ -1	4208
+ -0.5	3670
+ -0.2	3242
+ -0.1	3071
+ 0	2885.5
+ 0.1	2636
+ 0.2	2329
+ 0.5	1247
+ 1	757
+ 2	544
+ 3	457
+ 4	404
+ 5	368
+ 6	341
+ 8	302
+ 10	275
+ 12	257
+ 20	206
+ 30	174
+ 40	154


.MODEL MINT NMOS(Vto=3.5 Kp=5.80e+01 Nfs=660000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 Ucrit=1e4 Diomod=1 Vfb=0 Leta=0 Weta=0
+ U0=600 Temp=0 Vdd=0 Xpart=0 Vmax=1000)

.MODEL DBD D(Bv=200.00 Ibv=2.50E-04 Rs=1E-6 Is=2.50279233142471e-12
+ N=1 M=0.55 VJ=0.5 Fc=0.5 Cjo=1.52e-09 Tt=1.33e-07)

.ENDS