*****************************************************************
* NXP PSMN025-100D
*
* Polarity N-Channel
* Ratings 100V/2.500000E-002OHMS/47A
*
* Date Created Wed Mar 21 08:45:23 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN025-100D DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9.33202663467388e-10
RLS2 SOURCE 8 2.34539410548766
RLS1 8 7 0.000967481695870964

RDS 7 4 2000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0187162056885285 TC=0.00591744330147095,3.60347852046523E-05
RBD 9 4 0.00261268789675542 TC=0.00591744330147095,3.60347852046523E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 500000000
CGS 2 6 2.405e-09
RG 1 2 0.806633761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -5	1881.6
+ -4	1947.3
+ -3	3690.6
+ -2	3225.1
+ -1	2673.7
+ -0.5	2295.7
+ -0.2	2046.6
+ -0.1	1973.5
+ 0	1864.5
+ 0.1	1717.1
+ 0.2	1594
+ 0.5	1070.8
+ 1	695.9
+ 2	507.9
+ 3	424.23
+ 4	374.4
+ 5	339.3
+ 6	313.54
+ 8	276
+ 10	250.44
+ 12	231.34
+ 15	210.02
+ 20	185.45
+ 40	137.62
+ 60	115.83
+ 80	104.99
+ 100	100.64



.MODEL MINT NMOS(Vto=3.9700738439948 Kp=0.72029108e+002 Nfs=1080000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=2.851516014651605e-12
+ N=1 M=0.51 VJ=0.57 Fc=0.5 Cjo=1.0799e-09 Tt=8.2e-08)

.ENDS

