*****************************************************************
* NXP PSMN013-100ES
*
* Polarity N-Channel
* Ratings 100V/1.390000E-002OHMS/68A
*
* Date Created Wed Nov 02 06:30:03 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN013-100ES DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 2.2886089148807e-09
RLG GATE 1 5.75190156314345
LS SOURCE 8 3.10130694062197e-09
RLS2 SOURCE 8 7.79443448094801
RLS1 8 7 0.00106315324002631

RDS 7 4 1666666666.66667 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00889588772720966 TC=0.00652073583964882,3.99039122119575E-05
RBD 9 4 0.000749666750505522 TC=0.00652073583964882,3.99039122119575E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 2000000000
CGS 2 6 3.01904e-09
RG 1 2 0.993521757196387

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -5	2400
+ -2	2142
+ -1	1675
+ -0.5	1392
+ -0.2	1187
+ -0.1	1116
+ 0	1051
+ 0.1	967
+ 0.2	900
+ 0.5	783
+ 1	666
+ 2	490
+ 5	325
+ 10	259
+ 20	195
+ 25	177
+ 30	164
+ 50	132
+ 70	100
+ 90	68
+ 100	52



.MODEL MINT NMOS(Vto=3.425 Kp=1.6e+002 Nfs=410000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=1.91152352561197e-12
+ N=1 M=0.61 VJ=0.5 Fc=0.5 Cjo=1.388e-09 Tt=5.2e-08)

.ENDS



