*****************************************************************
* NXP PSMN013_30LL
*
* Polarity N-Channel
* Ratings 30V/1.30E-02OHMS/5A
*
* Date Created Sun Aug  1 23:51:08 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN013_30LL DRAIN GATE SOURCE

LD DRAIN 5 1e-10
RLD2 DRAIN 5 0.2513272
RLD1 5 4 0.0002
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 1.04952061431314e-09
RLS2 SOURCE 8 2.63773077337601
RLS1 8 7 0.00285112699841736

RDS 7 4 3000000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0058270611192138 TC=0.00586530777338274,2.60301239873443e-05
RBD 9 4 0.00271933821314138 TC=0.00586530777338274,2.60301239873443e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 2000000000
CGS 2 6 7e-10
RG 1 2 1.38060161358437

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	830
+ -5	830
+ -2	555
+ -1	436
+ -0.5	337
+ -0.2	281
+ -0.1	264
+ 0	222.5
+ 0.1	192
+ 0.2	190
+ 0.5	171
+ 1	137
+ 2	111
+ 5	87
+ 10	73
+ 12	70
+ 15	67
+ 30  58



.MODEL MINT NMOS(Vto=2.1 Kp=7.5e+01 Nfs=500000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8  Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0  
+ U0=600 Vmax=1200)

.MODEL DBD D(Bv=35.00 Ibv=2.50E-04 Rs=1E-6 Is=5.73822573800479e-13
+ N=1 M=0.55 VJ=0.99 Fc=0.5 Cjo=4.02e-10 Tt=2.066e-08)

.ENDS



