*****************************************************************
* NXP PSMN017_30LL
*
* Polarity N-Channel
* Ratings 30V/1.70E-02OHMS/5A
*
* Date Created Mon Aug  2 03:06:49 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN017_30LL DRAIN GATE SOURCE

LD DRAIN 5 1e-10
RLD2 DRAIN 5 0.2513272
RLD1 5 4 0.0002
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 1.1116417010739e-09
RLS2 SOURCE 8 2.7938579613414
RLS1 8 7 0.00341135239810083

RDS 7 4 3000000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00900288535624198 TC=0.00543888882151906,2.31778352595566e-05
RBD 9 4 0.0024783548604924 TC=0.00543888882151906,2.31778352595566e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 20000000000
CGS 2 6 5.25e-10
RG 1 2 1.21060161358437

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	660
+ -10	657
+ -5	653
+ -2	427
+ -1	342
+ -0.5	283
+ -0.2	244
+ -0.1	232
+ 0	172.2
+ 0.1	122.5
+ 0.2	122.2
+ 0.5	120.8
+ 1	112.3
+ 2	87.6
+ 5	70
+ 10	59.9
+ 12	57.7
+ 20	53.1
+ 25	51.2



.MODEL MINT NMOS(Vto=2.23 Kp=5.0e+01 Nfs=690000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8  Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0  
+ U0=600 Vmax=1100)

.MODEL DBD D(Bv=35.00 Ibv=2.50E-04 Rs=1E-6 Is=2.87299652500819e-13
+ N=1 M=0.44 VJ=0.99 Fc=0.5 Cjo=2.386e-10 Tt=1.69e-08)

.ENDS

