*****************************************************************
* NXP PSMN014_60LS
*
* Polarity N-Channel
* Ratings 60V/1.40E-02OHMS/15A
*
* Date Created Wed Aug  4 02:59:48 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN014_60LS DRAIN GATE SOURCE

LD DRAIN 5 1e-10
RLD2 DRAIN 5 0.2513272
RLD1 5 4 0.0001
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.0005

RDS 7 4 1200000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0086719092070127 TC=0.00416854340515606,1.7667378540432e-05
RBD 9 4 0.00161160222538459 TC=0.00416854340515606,1.7667378540432e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 20000000000
CGS 2 6 1.2e-09
RG 1 2 0.780601613584367

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1228
+ -10	1225
+ -5	1218
+ -4	1178
+ -3	991
+ -2	789
+ -1	577
+ -0.5	413
+ -0.2	340
+ -0.1	318
+ 0	314
+ 0.01	323
+ 0.1	317
+ 0.2	288
+ 0.5	248
+ 1	215
+ 2	168
+ 5	128
+ 10	113
+ 12	110
+ 20	100
+ 25	95
+ 30	91



*.MODEL MINT NMOS(Vto=3.3719092070127 Kp=9.2669e+01 Nfs=450000000000 Eta=0
.MODEL MINT NMOS(Vto=3.55 Kp=8.80e+01 Nfs=650000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8  Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0  
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=67.00 Ibv=2.50E-04 Rs=1E-6 Is=8.70515719711694e-13
+ N=1 M=0.57 VJ=0.54 Fc=0.5 Cjo=7.691554e-10 Tt=3.266e-08)

.ENDS
