*****************************************************************
* NXP PSMN035_100LS
*
* Polarity N-Channel
* Ratings 100V/3.20E-02OHMS/10A
*
* Date Created Wed Aug  4 05:37:58 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN035_100LS DRAIN GATE SOURCE

LD DRAIN 5 1e-10
RLD2 DRAIN 5 0.2513272
RLD1 5 4 0.0001
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.0005

RDS 7 4 10000000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0261972002704792 TC=0.00577379628877097,3.56740427866355e-05
RBD 9 4 0.00200852996999917 TC=0.00577379628877097,3.56740427866355e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 20000000000
CGS 2 6 1.25e-09
RG 1 2 0.880601613584367

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1228
+ -10	1225
+ -5	1183
+ -2	829
+ -1	634
+ -0.5	524
+ -0.2	457
+ -0.1	440
+ 0	386
+ 0.1	348
+ 0.2	346
+ 0.5	329
+ 1	269
+ 2	203
+ 5	137
+ 10	114
+ 12	106
+ 20	86.4
+ 25	78.9
+ 30	73.2
+ 50	59.4



*.MODEL MINT NMOS(Vto=3.49800019319945 Kp=7.3140e+01 Nfs=630000000000 Eta=0
.MODEL MINT NMOS(Vto=3.60 Kp=6.0e+01 Nfs=630000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8  Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0  
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=112.00 Ibv=2.50E-04 Rs=1E-6 Is=5.90070370646723e-13
+ N=1 M=0.58 VJ=0.99 Fc=0.5 Cjo=4.13e-10 Tt=5.187e-08)

.ENDS



