*****************************************************************
* NXP PSMN017_80PS
*
* Polarity N-Channel
* Ratings 80V/1.70E-02OHMS/10A
*
* Date Created Sun Oct 17 02:41:58 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
* 
*****************************************************************

.SUBCKT PSMN017_80PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.13771774667544e-09
RLS2 SOURCE 8 5.37266615662248
RLS1 8 7 0.000787717746675436

RDS 7 4 40000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0147635372508732 TC=0.00712291179022453,1.2385420985441e-05
RBD 9 4 0.00146845385329098 TC=0.00712291179022453,1.2385420985441e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000
CGS 2 6 1.55716239316239e-09
RG 1 2 0.997840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	1569
+ -8	1567
+ -6	1555
+ -4	1183
+ -2	914
+ 0	0
+ 0.1	214
+ 0.2	213
+ 0.5	211
+ 1	197
+ 2	134
+ 5	108
+ 10	110
+ 20	98
+ 25	94
+ 30	91
+ 40	86



.MODEL MINT NMOS(Vto=4.04250999509733 Kp=1.5055e+02 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=1000)

.MODEL DBD D(Bv=80.00 Ibv=2.50E-04 Rs=1E-6 Is=7.48929934494492e-13
+ N=1 M=0.63 VJ=0.99 Fc=0.5 Cjo=7.6956e-10 Tt=4.157e-08)

.ENDS