*****************************************************************
* NXP PSMN027-100PS
*
* Polarity N-Channel
* Ratings 100V/2.680000E-002OHMS/37A
*
* Date Created Fri Nov 04 01:46:57 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN027-100PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 2.77794920990657e-09
RLG GATE 1 6.98174786391044
LS SOURCE 8 3.64855491212405e-09
RLS2 SOURCE 8 9.1698186465183
RLS1 8 7 0.00120087098670174

RDS 7 4 1250000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0172161922158111 TC=0.0114995271384715,-8.77481377703842E-05
RBD 9 4 0.0012233895238557 TC=0.0114995271384715,-8.77481377703842E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 2000000000
CGS 2 6 1.55e-09
RG 1 2 0.912442050062452

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	1000
+ -1	902.6
+ -0.5	751.6
+ -0.2	644
+ -0.1	606.2
+ 0	570.4
+ 0.1	516.9
+ 0.2	479.8
+ 0.5	411.4
+ 1	349.3
+ 2	265.3
+ 5	174.6
+ 10	131.1
+ 20	109.8
+ 25	100.1
+ 30	92.7
+ 50	75.2
+ 70	57.7
+ 90	40.2
+ 100	31.45


.MODEL MINT NMOS(Vto=3.685 Kp=0.75e+002 Nfs=850000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-007 Rs=1E-6 Is=8.5e-13
+ N=1 M=0.59 VJ=0.55 Fc=0.5 Cjo=5.675e-10 Tt=4.7e-08)

.ENDS

