*****************************************************************
* NXP PSMN034-100PS
*
* Polarity N-Channel
* Ratings 100V/3.450000E-002OHMS/32A
*
* Date Created Fri Nov 04 02:43:49 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN034-100PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 2.77794920990657e-09
RLG GATE 1 6.98174786391044
LS SOURCE 8 3.36776357327138e-09
RLS2 SOURCE 8 8.46411304065334
RLS1 8 7 0.00113201211336403

RDS 7 4 142857142.857143 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0262020796613078 TC=0.0109740099687406,-8.22512949899847E-05
RBD 9 4 0.00166722123781456 TC=0.0109740099687406,-8.22512949899847E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 2000000000
CGS 2 6 1.14e-09
RG 1 2 1.01244205006245

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -5	900
+ -2	882
+ -1	684
+ -0.5	575
+ -0.2	511
+ -0.1	490
+ 0	390
+ 0.1	308
+ 0.2	308
+ 0.5	306
+ 1	290
+ 2	214
+ 5	141
+ 10	118
+ 20	90
+ 25	82
+ 30	76
+ 50	62
+ 70	48
+ 90	34
+ 100	27


.MODEL MINT NMOS(Vto=3.74 Kp=0.85e+002 Nfs=1100000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-007 Rs=1E-6 Is=6.05576152842918e-13
+ N=1 M=0.5 VJ=0.99 Fc=0.5 Cjo=3.04e-10 Tt=3.8e-08)

.ENDS

